US06015821
1,3-Dicyclohexylcarbodiimide (211 g, 1.02 mol) and 4-(N,N-dimethylaminopyridine (141 g, 1.15 mol) in methylene chloride (2000 ml) were added with stirring to a solution of nicotinic acid (131 g, 1.07 mol) and 1-(z,z,z-octadeca-6,9,12-trienyloxy)-3-hydroxypropane (300 g, 0.89 mol) in methylene chloride (2000 ml). The progress of reaction was monitored by tlc. On completion, the reaction mixture was filtered and the organic layer washed with 2M hydrochloric acid (2000 ml) and water (3×2000 ml), dried with magnesium sulphate and concentrated under reduced pressure. Purification by dry column chromatography using a gradient of ethyl acetate in hexane yielded 1-(z,z,z-octadeca-6,9,12-trienoyloxy)-3-(nicotinyloxy)-propane as a pale yellow oil in 81% yield.

reactant | 1,3-Dicyclohexylcarbodiimide | 1.02 mol, 211 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | nicotinic acid | 1.07 mol, 131 g | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | 1-(z,z,z-octadeca-6,9,12-trienyloxy)-3-hydroxypropane | 0.89 mol, 300 g | C(CCCC\C=C/C\C=C/C\C=C/CCCCC)OCCCO | C21H38O2
solvent | methylene chloride | 2000 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2000 ml | C(Cl)Cl | CH2Cl2
product | 1-(z,z,z-octadeca-6,9,12-trienoyloxy)-3-(nicotinyloxy)-propane | 81% yield | C(CCCC\C=C/C\C=C/C\C=C/CCCCC)(=O)OCCCOCC1=CN=CC=C1 | C27H41NO3
